US05399543
A stirred solution of 9.0 grams (0.032 mole) of 2-fluoro-4-(4-chlorophenylmethoxy)nitrobenzene and 10 mL of water in 150 mL of glacial acetic acid was maintained at 50° C. while 9.0 grams of iron powder was slowly added. Upon completion of addition, the reaction mixture was cooled to 25° C. where it was stirred for about one hour. After this time the reaction mixture was filtered ,and the filtrate was poured into water. The mixture was then extracted with ethyl acetate. The extract was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residue. The residue was subjected to column chromatography using silica gel. Elution was accomplished using methylene chloride. The product-containing fractions were combined and concentrated under reduced pressure, yielding 7.1 grams of 2-fluoro-4-(4-chlorophenylmethoxy)aniline, mp 73°-75° C. The NMR spectrum was consistent with the proposed structure.

reactant | 2-fluoro-4-(4-chlorophenylmethoxy)nitrobenzene | 0.032 mole, 9.0 grams | FC1=C(C=CC(=C1)OCC1=CC=C(C=C1)Cl)[N+](=O)[O-] | C13H9ClFNO3
reactant | water | 10 mL | O | H2O
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 9.0 grams | [Fe] | Fe
product | 2-fluoro-4-(4-chlorophenylmethoxy)aniline | 7.1 grams | FC1=C(N)C=CC(=C1)OCC1=CC=C(C=C1)Cl | C13H11ClFNO
